US07504408B2
N-[5-chloro-7-(3-methoxy-3-methylbut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-amine
A solution of sodium bis(trimethylsilyl)amide (1.12 ml) in tetrahydrofuran (1.0M, 1.12 mmol) was added to a solution 4-chloro-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazoline (0.189 g) and 5-chloro-7-(3-methoxy-3-methylbut-1-yn-1-yl)-1,3-benzodioxol-4-amine (0.150 g) in DMF (6 ml) that had been cooled to −15° C. and the mixture was stirred for 3 hours then the reaction was allowed to warm to room temperature. The reaction mixture was quenched into water and saturated ammonium chloride solution was added. The resulting white precipitate was filtered under suction, washing with water, giving a pale tan paste. This was then extracted into dichloromethane, dried over magnesium sulfate and solvents evaporated under reduced pressure to give a tan foam. This was triturated with diethyl ether, giving a white solid. The resulting solid was then gathered by filtration and air-dried. There was thus the title compound (0.225 g) as an off-white solid; NMR Spectrum: (CDCl3) 1.55 (s, 6H), 2.11 (quin, 2H), 2.47 (s(broad), 4H), 2.56 (t, 2H), 3.43 (s, 3H), 3.72 (t, 4H), 4.00 (s, 3H), 4.26 (t, 2H), 6.07 (s, 2H), 6.83 (s, 1H), 7.05 (s, 1H), 7.08 (s, 1H), 7.30 (s, 1H), 8.62 (s, 1H); Mass Spectrum: M+H+ 569/571.

reactant | sodium bis(trimethylsilyl)amide | 1.12 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tetrahydrofuran | 1.12 mmol, 1.0M | O1CCCC1 | C4H8O
reactant | 4-chloro-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazoline | 0.189 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | 5-chloro-7-(3-methoxy-3-methylbut-1-yn-1-yl)-1,3-benzodioxol-4-amine | 0.150 g | ClC1=C(C2=C(OCO2)C(=C1)C#CC(C)(C)OC)N | C13H14ClNO3
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | N-[5-chloro-7-(3-methoxy-3-methylbut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-amine | ClC1=C(C2=C(OCO2)C(=C1)C#CC(C)(C)OC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C29H33ClN4O6
